US06057295
C] Z-Gly-OH (0.762 g, 3.64 mmoles) was dissolved in 15 ml of DMF/methylene chloride (1:1 v/v) and sequentially added with BOP (1.61 go 3.64 mmoles), HOBT (0.491 g, 3.64 mmoles), TEA (1.01 ml, 7.28 mmoles) and H-Lys(Boc)-Pro-OtBu (1.119 g, 2.8 mmoles) dissolved in 15 ml of the same mixture. The reaction mixture was treated as described under A]. There were obtained 1.16 g of Z-Gly-Lys(Boc)-Pro-OtBu.

reactant | Z-Gly-OH | 3.64 mmoles, 0.762 g | N(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C10H11NO4
reactant | BOP | 3.64 mmoles | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | HOBT | 3.64 mmoles, 0.491 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H-Lys(Boc)-Pro-OtBu | 2.8 mmoles, 1.119 g | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C20H37N3O5
solvent | DMF methylene chloride | 15 ml | CN(C)C=O.C(Cl)Cl
product | Z-Gly-Lys(Boc)-Pro-OtBu | 1.16 g | N(CC(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C30H46N4O8
